* source P1_VOICU_CATALIN
V_V1         N00206 0 56Vdc
R_R41         N307027 N00206  3.9k TC=0,0 
Q_Q12         N00474 N00765 N00421 QBC856B 
R_R38         N00421 N00206  100 TC=0,0 
Q_Q15         N00474 N00529 N00917 QBC846B 
D_D8         0 N00529 BZX84-C10 
R_R39         N00734 N00206  100 TC=0,0 
Q_Q13         N00765 N00765 N00734 QBC856B 
Q_Q16         N00765 N01708 N00917 QBC846B 
R_R54         N01019 N00529  10k TC=0,0 
Q_Q17         N00917 N01019 N01130 QBC846B 
R_R67         0 N01130  2.2k TC=0,0 
R_R53         N00529 N01607  47k TC=0,0 
Q_Q10         N00206 N01373 N02040 QMJD31C 
Q_Q14         N01539 N00474 N313836 QBC856B 
R_R69         0 N305436  2.7k TC=0,0 
R_R48         N01373 N307222  1k TC=0,0 
R_R36         N02040 N02050  0.47 TC=0,0 
R_R37         N02050 N02700  1 TC=0,0 
Q_Q11         N01373 N02040 N02700 QBC846B 
R_R42         N02711 N02700  3.3k TC=0,0 
R_R45         N05218 N02711  680 TC=0,0 
R_R55         N03036 N03018  220 TC=0,0 
R_R62         0 N03036  4.7k TC=0,0 
Q_Q18         N01373 N297634 0 QBC846B 
R_R60         N304135 N03838  820 TC=0,0 
X_P3         N03018 N01708 N05218 POT PARAMS: SET={a} VALUE=5k
X_P4         N01607 N297634 0 POT PARAMS: SET=0.352 VALUE=10k
X_D5         LED PARAMS: IS=5.6404e-29 RS=2  BV=5 IBV=10e-6         
X_D7         LED PARAMS: IS=5.6404e-29 RS=2  BV=5 IBV=10e-6         
R_R40         N302924 N302928  820  
R_R43         N302932 N302924  820  
R_R46         N302936 N302932  820  
R_R51         N303391 N302936  820  
R_R56         N303725 N303391  820  
R_R63         0 N303725  1k  
R_R68         N304293 N304135  820  
R_R70         0 N304293  820  
R_R61         N305436 N3054250  2.2k  
R_R57         N3054250 N01539  2.2k  
R_R47         N01539 N307204  1k  
R_R44         N00529 N307027  4.7k  
R_R52         N307204 N307222  820  
D_D6         D1N4148_1 
R_R50         N321042 N02700  680  
R_R49         N321042 N02700  680  
R_R59         N321214 N321042  680  
R_R58         N321214 N321042  680  
R_R65         0 N321214  1.5k  
R_R66         0 N321214  1.5k  
R_R64         0 N321214  1.5k  
