* source P1_VOICU_CATALIN
V_V1         N310961 0 56Vdc
Q_Q9         N311141 N312309 0 QBC846B 
R_R10         N311035 N311047  0.47 TC=0,0 
R_R25         0 N312297  820  
R_R27         N3119611 N311537  2.2k  
R_R6         0 N312121  2.2k TC=0,0 
X_P1         N311673 N312596 N311489 POT PARAMS: SET={a} VALUE=5k
Q_Q7         N311537 N311377 N310961 QBC856B 
X_D3         N311053 N311927 LED PARAMS: IS=5.6404e-29 RS=2  BV=5 IBV=10e-6    
+      
X_D1         N310961 N311171 LED PARAMS: IS=5.6404e-29 RS=2  BV=5 IBV=10e-6    
+      
R_R24         N312297 N312133  820  
Q_Q3         N311363 N311363 N311203 QBC856B 
R_R29         N311459 N311293  4.7k  
R_R26         N312127 N3119611  2.2k  
R_R5         N311999 N311459  10k TC=0,0 
R_R18         N311357 N311171  820  
Q_Q2         N311377 N311459 N311665 QBC846B 
R_R20         N311639 N311453  820  
R_R4         N311203 N310961  100 TC=0,0 
Q_Q4         N311363 N312600 N311665 QBC846B 
Q_Q1         N311377 N311363 N311197 QBC856B 
R_R11         N311047 N311053  1 TC=0,0 
R_R2         N311293 N310961  3.9k TC=0,0 
Q_Q5         N311665 N311999 N312121 QBC846B 
Q_Q6         N310961 N311141 N311035 QMJD31C 
R_R17         0 N311053  {Rload} TC=0,0 
R_R14         N311993 N311673  220 TC=0,0 
R_R15         0 N311993  4.7k TC=0,0 
R_R13         N311489 N311351  680 TC=0,0 
D_D2         0 N311459 BZX84-C10 
R_R23         0 N312003  1k  
R_R22         N312003 N311853  820  
Q_Q8         N311141 N311035 N311053 QBC846B 
R_R8         0 N312127  2.7k TC=0,0 
R_R28         N311537 N311729  1k  
R_R7         N311459 N311897  47k TC=0,0 
R_R3         N311197 N310961  100 TC=0,0 
R_R9         N311141 N311733  1k TC=0,0 
R_R30         N311729 N311733  820  
R_R19         N311453 N311357  820  
R_R16         N312133 N311927  820 TC=0,0 
X_P2         N311897 N312309 0 POT PARAMS: SET=0.356 VALUE=10k
R_R21         N311853 N311639  820  
R_R12         N311351 N311053  3.3k TC=0,0 
L_L1         N312600 N312596  0.1  TC=0,0 
C_C1         N312819 N312600  0.1  TC=0,0 
V_V2         N312819 0 DC 0Vdc AC 1Vac 
.PARAM  rload=1120 a=1
