* source P1_VOICU_CATALIN
V_V1         N00206 0 56Vdc
R_R2         N307027 N00206  3.9k TC=0,0 
Q_Q1         N00474 N00765 N00421 QBC856B 
R_R3         N00421 N00206  100 TC=0,0 
Q_Q2         N00474 N00529 N00917 QBC846B 
D_D2         0 N00529 BZX84-C10 
R_R4         N00734 N00206  100 TC=0,0 
Q_Q3         N00765 N00765 N00734 QBC856B 
Q_Q4         N00765 N01708 N00917 QBC846B 
R_R5         N01019 N00529  10k TC=0,0 
Q_Q5         N00917 N01019 N01130 QBC846B 
R_R6         0 N01130  2.2k TC=0,0 
R_R7         N00529 N01607  47k TC=0,0 
Q_Q6         N00206 N01373 N02040 QMJD31C 
Q_Q7         N01539 N00474 N313836 QBC856B 
R_R8         0 N305436  2.7k TC=0,0 
R_R9         N01373 N307222  1k TC=0,0 
R_R10         N02040 N02050  0.47 TC=0,0 
R_R11         N02050 N02700  1 TC=0,0 
Q_Q8         N01373 N02040 N02700 QBC846B 
R_R12         N02711 N02700  3.3k TC=0,0 
R_R13         N05218 N02711  680 TC=0,0 
R_R14         N03036 N03018  220 TC=0,0 
R_R15         0 N03036  4.7k TC=0,0 
Q_Q9         N01373 N297634 0 QBC846B 
R_R16         N304135 N03838  820 TC=0,0 
R_R17         0 N02700  {Rload} TC=0,0 
X_P1         N03018 N01708 N05218 POT PARAMS: SET={a} VALUE=5k
X_P2         N01607 N297634 0 POT PARAMS: SET=0.352 VALUE=10k
X_D1         N00206 N302928 LED PARAMS: IS=5.6404e-29 RS=2  BV=5 IBV=10e-6     
+     
X_D3         N02700 N03838 LED PARAMS: IS=5.6404e-29 RS=2  BV=5 IBV=10e-6      
+    
R_R18         N302924 N302928  820  
R_R19         N302932 N302924  820  
R_R20         N302936 N302932  820  
R_R21         N303391 N302936  820  
R_R22         N303725 N303391  820  
R_R23         0 N303725  1k  
R_R24         N304293 N304135  820  
R_R25         0 N304293  820  
R_R26         N305436 N3054250  2.2k  
R_R27         N3054250 N01539  2.2k  
R_R28         N01539 N307204  1k  
R_R29         N00529 N307027  4.7k  
R_R30         N307204 N307222  820  
D_D4         N00206 N313836 D1N4148_1 
.PARAM  rload=1120 a=0
